### PR TITLE
[Merged by Bors] - feat(Mathlib.Topology.Algebra.Module.Equiv): add results on IsHomeomorph

### PR DESCRIPTION
**Pull request by faenuccio**
Add the construction of a `ContinuousLinearEquiv` from a `LinearEquiv` that `IsHomeomorph`, and two basic API lemmas. Also remove a `simp` tag from a lemma in about `Function.Bijective`, and change its signature a bit.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 1]
```diff
@@ -1234,7 +1245,6 @@ theorem ringInverse_eq_inverse : Ring.inverse = inverse (R := R) (M := M) := by
 @[simp] theorem inverse_id : (ContinuousLinearMap.id R M).inverse = .id R M := by
   rw [← ringInverse_eq_inverse]
   exact Ring.inverse_one _
-
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:1210]:
```suggestion

```

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 2]
```diff
@@ -1433,15 +1443,34 @@ theorem smul_trans [SMulCommClass R S V] [IsScalarTower S R G] (α : Sˣ) (e : G
 theorem trans_smul [IsScalarTower S R G] (α : Sˣ) (e : G ≃L[R] V) (f : V ≃L[R] W) :
     e.trans (α • f) = α • (e.trans f) := by ext; simp
 
-end ContinuousLinearEquiv
+section IsHomeomorph
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:1428]: Could you also add `ContinuousLinearEquiv.isHomeomorph` ? Right now one can do `T.toHomeomorph.isHomeomorph`, but this shows that `T.toHomeomorph` is an homeomorphism (instead of just `T`), so I think adding this lemma will be convenient.

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 3]
```diff
@@ -1433,15 +1443,34 @@ theorem smul_trans [SMulCommClass R S V] [IsScalarTower S R G] (α : Sˣ) (e : G
...
+
+variable {S₁ M M₁ : Type*} [Semiring S₁] {σ : S →+* S₁} {σ' : S₁ →+* S}
+  [RingHomInvPair σ σ'] [RingHomInvPair σ' σ] [TopologicalSpace M] [AddCommMonoid M] [Module S M]
+  [TopologicalSpace M₁] [AddCommMonoid M₁] [Module S₁ M₁]
+
+/-- A linear equivalence that is a homeomorphism is a continuous linear equivalence. -/
+def ofIsHomeomorph (f : M ≃ₛₗ[σ] M₁) (hf : IsHomeomorph f.toEquiv) : M ≃SL[σ] M₁ where
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
def ofIsHomeomorph (f : M ≃ₛₗ[σ] M₁) (hf : IsHomeomorph f) : M ≃SL[σ] M₁ where
```
This should work, right?

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 4]
```diff
@@ -1433,15 +1443,34 @@ theorem smul_trans [SMulCommClass R S V] [IsScalarTower S R G] (α : Sˣ) (e : G
...
+    exact hf.2
+
+variable {f : M ≃ₛₗ[σ] M₁} (hf : IsHomeomorph f)
+
+@[simp]
+lemma ofIsHomeomorph_coe : (ofIsHomeomorph f hf).toLinearEquiv = f := by
+  dsimp only [ofIsHomeomorph]
+
+@[simp]
+lemma ofIsHomeomorph_apply (x : M) : (ofIsHomeomorph f hf) x = f x := by dsimp [ofIsHomeomorph]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
@[simp]
lemma toLinearquiv_ofIsHomeomorph : (ofIsHomeomorph f hf).toLinearEquiv = f := by
  dsimp only [ofIsHomeomorph]

@[simp]
lemma coe_ofIsHomeomorph : (ofIsHomeomorph f hf : M → M₁) = f := by dsimp [ofIsHomeomorph]
```
How do you like these names?

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 5]
```diff
@@ -11,8 +11,26 @@ public import Mathlib.Topology.Algebra.Module.LinearMapPiProd
 /-!
 # Continuous linear equivalences
 
+## Notation
 Continuous semilinear / linear / star-linear equivalences between topological modules are denoted
 by `M ≃SL[σ] M₂`, `M ≃L[R] M₂` and `M ≃L⋆[R] M₂`.
+
+## Main Definitions
+* `toHomeomorph` is the homeomorphism induced by a continuous (semi)linear map.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
* `toHomeomorph` is the homeomorphism induced by a continuous (semi)linear equivalence.
```

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 6]
```diff
@@ -11,8 +11,26 @@ public import Mathlib.Topology.Algebra.Module.LinearMapPiProd
...
+* `symm` is the inverse of a continuous linear equivalence as a continuous linear equivalence.
+* `equivOfInverse` creates a `ContinuousLinearEquiv` from two `ContinuousLinearMap`s that are
+  inverse of each other (as functions). See also `equivOfInverse'` when they're inverse to each
+  other as continuous linear maps.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:24]: Outside the scope of this PR, but I think we should just delete (or make an abbrev) the primed version. Also the naming is absolutely inconsistent with [LinearEquiv.ofLinear](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Equiv/Basic.html#LinearEquiv.ofLinear) :(((

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 7]
```diff
@@ -11,8 +11,26 @@ public import Mathlib.Topology.Algebra.Module.LinearMapPiProd
...
+* `ofUnit` is the `ContinuousLinearEquiv` corresponding to a unit in the ring of continuous
+  endomorphisms. See `toUnit` for the inverse direction.
+* `IsInvertible`: a continuous linear map is invertible if it is the forward direction of a
+  continuous linear equivalence.
+* `ofIsHomeomorph`: a linear equivalence that is a homeomorphism is a continuous linear equivalence.
+
+## Main Results
+* `prodComm`: the product of topological modules is commutative up to continuous linear isomorphism.
+* `LinearEquiv.isHomeomorph_iff`: A linear equivalence between topological modules is a
+  homeomorphism if and only if it is continuous in both directions.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:34]: I don't think this deserves to be in the "main results" section.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:24]: Right, but I agree it is out of scope for this PR. I have added a ToDo.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:34]: Why not? On a one hand this section seems sufficiently short to accomodate several results, and then I find it a very useful result that one might hope to find. But of course, if you're strongly against it, I'll remove it.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:1428]: Done

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 8]
```diff
@@ -1449,13 +1451,25 @@ variable {S₁ M M₁ : Type*} [Semiring S₁] {σ : S →+* S₁} {σ' : S₁ 
...
+  continuous_invFun := by sorry
+    -- have := hf.homeomorph.continuous_invFun
+    -- simp only [IsHomeomorph.toEquiv_homeomorph, Equiv.invFun_as_coe] at this
+    -- -- have a := Equiv.coe_ofBijective (f := f) hf.bijective
+    -- have b := Equiv.ofBijective_coe (f := f)
+    -- -- with_reducible_and_instances
+    -- rw [b] at this
+    -- -- have := Homeomorph.continuous_invFun
+    -- -- erw [Equiv.isHomeomorph_iff, f.coe_symm_toEquiv, ← f.invFun_eq_symm] at hf
+    -- -- exact hf.2
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: I think the same proof as before should work if you rewrite using [LinearEquiv.coe_toEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Equiv/Defs.html#LinearEquiv.coe_toEquiv) in the right place.

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: I'll try!

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: Found another solution, which I find slightly better.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: Agreed!

**Comment by faenuccio** [comment]
-awaiting-author

**Comment by faenuccio** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 9]
```diff
@@ -1412,15 +1424,35 @@ theorem smul_trans [SMulCommClass R S V] [IsScalarTower S R G] (α : Sˣ) (e : G
...
+  [TopologicalSpace M₁] [AddCommMonoid M₁] [Module S₁ M₁]
+
+/-- A linear equivalence that is a homeomorphism is a continuous linear equivalence. -/
+def ofIsHomeomorph (f : M ≃ₛₗ[σ] M₁) (hf : IsHomeomorph f) : M ≃SL[σ] M₁ where
+  __ := f
+  continuous_toFun := hf.continuous
+  continuous_invFun := (f.isHomeomorph_iff.mp hf).2
+
+theorem isHomeomorph (f : M ≃SL[σ] M₁) : IsHomeomorph f := ⟨f.continuous, isOpenMap f, f.bijective⟩
+
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:1441]:
```suggestion
```

File: Mathlib/Logic/Equiv/Defs.lean [hunk 10]
```diff
@@ -825,8 +825,8 @@ noncomputable def ofBijective (f : α → β) (hf : Bijective f) : α ≃ β whe
 
 @[simp] lemma coe_ofBijective (f : α → β) (hf : Bijective f) : ⇑(ofBijective f hf) = f := rfl
 
-@[simp] lemma ofBijective_coe {f : α ≃ β} :
-    Equiv.ofBijective f f.bijective = f := Equiv.ext (congrFun rfl)
+lemma ofBijective_coe {f : α ≃ β} :
+  Equiv.ofBijective (f.toFun) f.bijective = f := Equiv.ext (congrFun rfl)
```
Comment (ADedecker) [inline Mathlib/Logic/Equiv/Defs.lean]: I think I disagree with this change, we almost always use `f` instead of `f.toFun`. What do you need it for? (Sorry if we already discussed it, I forgot...)

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 11]
```diff
@@ -1412,15 +1424,35 @@ theorem smul_trans [SMulCommClass R S V] [IsScalarTower S R G] (α : Sˣ) (e : G
...
 
 /-- A linear equivalence between topological modules is a homeomorphism if and only if it is
 continuous in both directions. -/
-theorem LinearEquiv.isHomeomorph_iff {R S : Type*} [Semiring R] [Semiring S]
-    {σ : R →+* S} {σ' : S →+* R} [RingHomInvPair σ σ'] [RingHomInvPair σ' σ]
-    {M : Type*} [TopologicalSpace M] [AddCommMonoid M] [Module R M]
-    {N : Type*} [TopologicalSpace N] [AddCommMonoid N] [Module S N]
-    (e : M ≃ₛₗ[σ] N) : IsHomeomorph e ↔ Continuous e ∧ Continuous e.symm :=
-  e.toEquiv.isHomeomorph_iff
+theorem LinearEquiv.isHomeomorph_iff (e : M ≃ₛₗ[σ] M₁) :
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
theorem _root_.LinearEquiv.isHomeomorph_iff (e : M ≃ₛₗ[σ] M₁) :
```

File: Mathlib/Topology/Algebra/Module/Complement.lean [hunk 12]
```diff
@@ -422,9 +422,11 @@ theorem continuous_prodEquivOfIsCompl (h : IsCompl p q) : Continuous (p.prodEqui
...
 theorem IsCompl.isTopCompl_iff_isHomeomorph_prodEquivOfIsCompl (h : IsCompl p q) :
     IsTopCompl p q ↔ IsHomeomorph (p.prodEquivOfIsCompl q h) := by
-  rw [(p.prodEquivOfIsCompl q h).isHomeomorph_iff,
-    isTopCompl_iff_continuous_symm_prodEquivOfIsCompl, and_iff_right]
-  exact continuous_prodEquivOfIsCompl h
+  change _ ↔ IsHomeomorph (p.prodEquivOfIsCompl q h).toAddEquiv.toEquiv
+  erw [(p.prodEquivOfIsCompl q h).isHomeomorph_iff,
+    isTopCompl_iff_continuous_symm_prodEquivOfIsCompl h,
+    and_iff_right (continuous_prodEquivOfIsCompl h)]
+  simp only [LinearEquiv.invFun_eq_symm, Equiv.coe_fn_mk, Equiv.symm_mk]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Complement.lean]:
```suggestion
  rw [(p.prodEquivOfIsCompl q h).isHomeomorph_iff,
    isTopCompl_iff_continuous_symm_prodEquivOfIsCompl, and_iff_right]
  exact continuous_prodEquivOfIsCompl h
```
(Needs the extra `_root_` I suggested above)

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Complement.lean]: I've merged this; thanks. But can you explain why moving the declaration to the root namespace made dot notation work better (because I guess this is what happens, right?) and why this prevents my horrible `erw`?

**Comment by faenuccio** [comment]
@ADedecker I think this is ready for another review.

File: Mathlib/Topology/Algebra/Module/Complement.lean (hunk 12 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Complement.lean]: Sorry, I was not clear enough:
* the proof I suggested was the original proof (maybe modified a bit on master after you started the PR)
* the proof broke because you (inadvertantly) moved `LinearEquiv.isHomeomorph_iff` to `ContinuousLinearEquiv.LinearEquiv.isHomeomorph_iff`.
* The fix you found uses [Equiv.isHomeomorph_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Homeomorph/Lemmas.html#Equiv.isHomeomorph_iff) instead. But this means playing with lots of `.toStuff`, hence the `erw` to help `rw` see that these are all the same functions.
* My suggestion to add `_root_` make sure that the original proof works again.

File: Mathlib/Topology/Algebra/Module/Complement.lean [hunk 13]
```diff
@@ -422,9 +422,10 @@ theorem continuous_prodEquivOfIsCompl (h : IsCompl p q) : Continuous (p.prodEqui
 `Submodule.prodEquivOfIsCompl` is a homeomorphism. -/
 theorem IsCompl.isTopCompl_iff_isHomeomorph_prodEquivOfIsCompl (h : IsCompl p q) :
     IsTopCompl p q ↔ IsHomeomorph (p.prodEquivOfIsCompl q h) := by
-  rw [(p.prodEquivOfIsCompl q h).isHomeomorph_iff,
-    isTopCompl_iff_continuous_symm_prodEquivOfIsCompl, and_iff_right]
-  exact continuous_prodEquivOfIsCompl h
+  change _ ↔ IsHomeomorph (p.prodEquivOfIsCompl q h).toAddEquiv.toEquiv
+  erw [(p.prodEquivOfIsCompl q h).isHomeomorph_iff,
+    isTopCompl_iff_continuous_symm_prodEquivOfIsCompl h,
+    and_iff_right (continuous_prodEquivOfIsCompl h)]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Complement.lean]:
```suggestion
  rw [(p.prodEquivOfIsCompl q h).isHomeomorph_iff,
    isTopCompl_iff_continuous_symm_prodEquivOfIsCompl, and_iff_right]
  exact continuous_prodEquivOfIsCompl h
```
As I said, we can just keep the proof as it is on master (unless you don't like it for some reason?)

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:1210]: @faenuccio Please put this space back!

File: Mathlib/Topology/Algebra/Module/Complement.lean (hunk 13 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/Complement.lean]: Done!

**Comment by ADedecker** [comment]
Thanks!

bors d+

**Comment by faenuccio** [comment]
bors merge

**Comment by ADedecker** [comment]
bors r-

I think you forgot to push!

**Comment by faenuccio** [comment]
@ADedecker Good catch! Thanks, the heatwave is not helping :sweat:
